US04780125
N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea.
5.6 g of 2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl isocyanate and 2.5 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine are stirred in absolute dioxan for 3 hours at 70°-80° C. After it has been cooled to 20° C., the reaction mixture is filtered and the clear solution so obtained is concentrated to a quarter of its volume. Then 50 ml of ether are added and 5.0 g of N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea crystallise from the solution. Melting point: 154°-155° C.

reactant | 2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl isocyanate | 5.6 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C10H6F3NO3S
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 2.5 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | N-[2-(3,3,3-trifluoro-1-propen-1-yl)phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | FC(C=CC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)(F)F | C15H14F3N5O4S
